.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.temp 27.0

* PEX produced on Sun Aug 23 04:24:19 AM CST 2026 using /home/huda/opensource-project/Microelectronic-Block-Generator/designs/notebooks/chipathon2026-D/scripts/iic-pex.sh with m=2 and s=1
* NGSPICE file created from ota.ext - technology: gf180mcuD

.option scale=5n

.subckt ota IBIAS OUT INN INP VSS VDD
X0 a_n1742_3047# IBIAS VSS VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=200
X1 OUT a_n1622_5258# VDD VDD pfet_03v3 ad=6.72n pd=0.232m as=6.72n ps=0.232m w=120 l=200
X2 VSS IBIAS IBIAS VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X3 a_n1742_3047# INN OUT VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=200
X4 a_n1742_3047# INP a_n1622_5258# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X5 OUT a_n1622_5258# VDD VDD pfet_03v3 ad=6.72n pd=0.232m as=14.4n ps=0.48m w=120 l=200
X6 a_n1742_3047# INN OUT VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X7 a_n1622_5258# a_n1622_5258# VDD VDD pfet_03v3 ad=6.72n pd=0.232m as=14.4n ps=0.48m w=120 l=200
X8 a_n1622_5258# a_n1622_5258# VDD VDD pfet_03v3 ad=6.72n pd=0.232m as=6.72n ps=0.232m w=120 l=200
X9 a_n1742_3047# INP a_n1622_5258# VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=200
X10 VSS IBIAS a_n1742_3047# VSS nfet_03v3 ad=22.4n pd=0.512m as=22.4n ps=0.512m w=400 l=200
X11 VDD a_n1622_5258# OUT VDD pfet_03v3 ad=14.4n pd=0.48m as=6.72n ps=0.232m w=120 l=200
X12 VDD a_n1622_5258# a_n1622_5258# VDD pfet_03v3 ad=6.72n pd=0.232m as=6.72n ps=0.232m w=120 l=200
X13 a_n1742_3047# IBIAS VSS VSS nfet_03v3 ad=22.4n pd=0.512m as=48n ps=1.04m w=400 l=200
X14 IBIAS IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X15 VDD a_n1622_5258# OUT VDD pfet_03v3 ad=6.72n pd=0.232m as=6.72n ps=0.232m w=120 l=200
X16 OUT INN a_n1742_3047# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X17 OUT INN a_n1742_3047# VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=200
X18 VSS IBIAS IBIAS VSS nfet_03v3 ad=24n pd=0.64m as=11.2n ps=0.312m w=200 l=200
X19 VSS IBIAS a_n1742_3047# VSS nfet_03v3 ad=48n pd=1.04m as=22.4n ps=0.512m w=400 l=200
X20 VDD a_n1622_5258# a_n1622_5258# VDD pfet_03v3 ad=14.4n pd=0.48m as=6.72n ps=0.232m w=120 l=200
X21 a_n1622_5258# INP a_n1742_3047# VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=200
X22 a_n1622_5258# INP a_n1742_3047# VSS nfet_03v3 ad=11.2n pd=0.312m as=11.2n ps=0.312m w=200 l=200
X23 IBIAS IBIAS VSS VSS nfet_03v3 ad=11.2n pd=0.312m as=24n ps=0.64m w=200 l=200
C0 OUT INN 0.27028f
C1 INN a_n1742_3047# 0.41429f
C2 OUT a_n1742_3047# 1.54261f
C3 INP a_n1742_3047# 0.4931f
C4 OUT VDD 2.90487f
C5 IBIAS a_n1742_3047# 0.43136f
C6 OUT a_n1622_5258# 0.52354f
C7 a_n1622_5258# INP 0.26955f
C8 a_n1622_5258# a_n1742_3047# 1.36242f
C9 VDD a_n1622_5258# 8.9109f
C10 IBIAS VSS 9.98368f
C11 INN VSS 2.62879f
C12 INP VSS 2.59455f
C13 OUT VSS 2.07348f
C14 VDD VSS 18.7528f
C15 a_n1742_3047# VSS 6.84969f ; **FLOATING
C16 a_n1622_5258# VSS 2.17826f ; **FLOATING
.ends

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
Vsrc0 INP 0 DC 1.35 PULSE(1.35 1.95 0 5n 5n 30u 60u)
Vsrc1 INN 0 DC 1.65
C_load_OUT OUT 0 5e-12
Ibias_IBIAS 0 IBIAS DC 2e-05
Xdut IBIAS OUT INN INP VSS VDD ota

.control
tran 10n 60u
wrdata tr.dat v(OUT)
.endc
.end