.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.temp 27.0

.subckt ota VDD VSS INP INN OUT IBIAS
XM1  net1 INP net2 VSS nfet_03v3 L=1u W=4u nf=4
XM2  OUT  INN net2 VSS nfet_03v3 L=1u W=4u nf=4
XM3  net1 net1 VDD VDD pfet_03v3 L=1u W=2.4u nf=4
XM4  OUT  net1 VDD VDD pfet_03v3 L=1u W=2.4u nf=4
XM5  net2 IBIAS VSS VSS nfet_03v3 L=1u W=8u nf=4
XM6  IBIAS IBIAS VSS VSS nfet_03v3 L=1u W=4u nf=4
.ends

Vsupply0 VDD 0 3.3
Vsupply1 VSS 0 0.0
Vsrc0 INP 0 DC 1.35 PULSE(1.35 1.95 0 5n 5n 30u 60u)
Vsrc1 INN 0 DC 1.65
C_load_OUT OUT 0 5e-12
Ibias_IBIAS 0 IBIAS DC 2e-05
Xdut VDD VSS INP INN OUT IBIAS ota

.control
tran 10n 60u
wrdata tr.dat v(OUT)
.endc
.end